US08808703B2
A mixture of (S)-1-(tert-butyldimethylsilyloxy)-3-(hexadecyloxy)propan-2-yl methanesulfonate (1 eq) and NaN3 (5 eq) in DMF (0.5 M) was stirred at 100° C. over night. The reaction mixture was filtered and washed with DCM. The filtrate was concentrated en vaccuo. The resulting crude was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-15% EtOAc/Hex to give (R)-(2-azido-3-(hexadecyloxy)propoxy)(tert-butyl)dimethylsilane as acolorless oil.

reactant | (S)-1-(tert-butyldimethylsilyloxy)-3-(hexadecyloxy)propan-2-yl methanesulfonate | 1 eq | CS(=O)(=O)O[C@H](CO[Si](C)(C)C(C)(C)C)COCCCCCCCCCCCCCCCC | C26H56O5SSi
reactant | NaN3 | 5 eq | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 0.5 M | CN(C)C=O | C3H7NO
product | (R)-(2-azido-3-(hexadecyloxy)propoxy)(tert-butyl)dimethylsilane | N(=[N+]=[N-])[C@@H](CO[Si](C)(C)C(C)(C)C)COCCCCCCCCCCCCCCCC | C25H53N3O2Si
